US06020342
To a solution of 5.1 g of sodium hydride in oil (prewashed by decantation with hexane.) in 60 ml of dry tetrahydrofuran was added dropwise 30 g of triethyl 2-phosphonopropionate over a period of 30 minutes under dry argon atmosphere at room temperature. After the mixture was stirred for further 1 hour, a solution of 11.8 g of 2-thiophenealdehyde in 30 ml of tetrahydrofuran was added dropwise. The mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed successively with water and saturated saline, dried over anhydrous magnesium sulfate. Drying agent was removed by filtration, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel to give 11.0 g of ethyl 2-methyl-3-(2-thienyl)acrylate as a yellow oil. Next, 150 ml of ethanol and 60 ml of aqueous 2N sodium hydroxide were added to the oil, and the mixture was refluxed for 1 hour. After cooling, ethanol was removed under reduced pressure, and the residue was acidified with dilute hydrochloric acid. Crystalline precipitate was collected by filtration to give 8.2 g of 2-methyl-3-(2-thienyl)acrylic acid as a white powder.

reactant | sodium hydride | 5.1 g | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | triethyl 2-phosphonopropionate | 30 g | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | 2-thiophenealdehyde | 11.8 g | S1C(=CC=C1)C=O | C5H4OS
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 2-methyl-3-(2-thienyl)acrylate | 11.0 g | CC(C(=O)OCC)=CC=1SC=CC1 | C10H12O2S
